US07485643B2
Step B: Preparation of 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid.
To a solution of i-Pr2NH (5.83 mL, 41.2 mmol) in THF (16 mL) at 0° C. was added n-BuLi (16.4 mL, 41.1 mmol, 2.5 M solution in hexanes). After stirring for 15 minutes, the reaction mixture was cooled to −78° C. 2-Chloroaniline (2.89 mL, 27.5 mmol) was added. After vigorous stirring for 10 minutes, a solution of 6-bromo-2,3,4-trifluorobenzoic acid (3.51 g, 13.8 mmol) in THF (4 mL) was added. The reaction mixture was warmed to room temperature and stirred for 2 hours at room temperature. The reaction mixture was concentrated, treated with 10% aqueous HCl (15 mL) until the aqueous phase was acidic, and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give the crude material that was triturated three times with boiling CH2Cl2 to afford the desired product (3.18 g, 64%).

reactant | i-Pr2NH | 41.2 mmol, 5.83 mL | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 41.1 mmol, 2.5 M, 16.4 mL | [Li]CCCC
reactant | 2-Chloroaniline | 27.5 mmol, 2.89 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 6-bromo-2,3,4-trifluorobenzoic acid | 13.8 mmol, 3.51 g | BrC1=CC(=C(C(=C1C(=O)O)F)F)F | C7H2BrF3O2
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid | 3.18 g, 64% | BrC1=CC(=C(C(=C1C(=O)O)NC1=C(C=CC=C1)Cl)F)F | C13H7BrClF2NO2
